US06313310B1
3-Hydroxy-3-(2,4,5-trimethoxyphenyl)-1-propyne was prepared according to Method A above from 2,4,5-trimethoxybenzaldehyde (0.784 g, 4 mmol) (Aldrich) in THF (20 mL) and ethynylmagnesium chloride (5 mmol, 10 mL, 0.5M solution in tetrahydrofuran) (Aldrich). (Yield 548 mg, 71%).

reactant | 2,4,5-trimethoxybenzaldehyde | 4 mmol, 0.784 g | COC1=C(C=O)C=C(C(=C1)OC)OC | C10H12O4
reactant | ethynylmagnesium chloride | 5 mmol, 0.5M, 10 mL | C(#C)[Mg]Cl
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 3-Hydroxy-3-(2,4,5-trimethoxyphenyl)-1-propyne | OC(C#C)C1=C(C=C(C(=C1)OC)OC)OC | C12H14O4
